US04987145
A mixture of 2-fluoro-6-[4-(4-methylsulfonyloxyphenoxy)benzylamino]aniline (300 mg) and ethyl ortho-acetate (181 mg) was heated at 150° to 160° C. for 24 hours while stirring. The reaction mixture was cooled to room temperature, toluene (100 ml) and a 5% sodium hydroxide solution (50 ml) were added thereto, and the resultant mixture was stirred for 10 minutes The toluene layer was separated, washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to eliminate toluene. The residue was purified by silica gel column chromatography to give 4-fluoro-1-[4-(4-methylsulfonyloxyphenoxy)benzyl]-2-methylbenzimidazole (243 mg) as white crystals m.p., 48°-56° C.

reactant | 2-fluoro-6-[4-(4-methylsulfonyloxyphenoxy)benzylamino]aniline | 300 mg | FC1=C(N)C(=CC=C1)NCC1=CC=C(C=C1)OC1=CC=C(C=C1)OS(=O)(=O)C | C20H19FN2O4S
reactant | ethyl ortho-acetate | 181 mg | C(C)(OCC)([O-])[O-]
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-fluoro-1-[4-(4-methylsulfonyloxyphenoxy)benzyl]-2-methylbenzimidazole | 243 mg | FC1=CC=CC=2N(C(=NC21)C)CC2=CC=C(C=C2)OC2=CC=C(C=C2)OS(=O)(=O)C | C22H19FN2O4S
